US08314250B2
A suspension of Dess-Martin periodinane (available from Aldrich Chemical Company, Inc., 1001 West Saint Paul Avenue, Milwaukee, Wis. 53233, USA; 538 mg, 1.27 mmol) in methylene chloride (10 mL) was pipetted into a magnetically stirred solution of [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-dimethylamino-phenyl]-methanol (288 mg, 0.986 mmol) in methylene chloride (20 mL). The mixture was stirred for 15 min. Powdered sodium bicarbonate (˜500 mg) was added and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography, eluting with 10-40% ethyl acetate/hexanes, to give 3-(tert-butyl-dimethyl-silanyloxymethyl)-5-dimethylamino-benzaldehyde (187 mg, 65%) as a yellow oil.

reactant | Dess-Martin periodinane | 1.27 mmol, 538 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-dimethylamino-phenyl]-methanol | 0.986 mmol, 288 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=C(C1)N(C)C)CO)(C)C | C16H29NO2Si
reactant | sodium bicarbonate | ˜500 mg | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(tert-butyl-dimethyl-silanyloxymethyl)-5-dimethylamino-benzaldehyde | 187 mg, 65% | C(C)(C)(C)[SiH2]OC(C=1C=C(C=O)C=C(C1)N(C)C)(C)C | C16H27NO2Si
